US08563579B2
3-(4-Ethoxyphenyl)-1,4-dihydro-1-methyl-4-oxo-5-(3-pyridylamino)-1,6-naphthyridine.
3-(4-Methoxyphenyl)-1,4-dihydro-1-ethyl-4-oxo-5-phenylamino-1,6-naphthyridine The title compound was prepared as described in Example 2 above except that 3-(4-chlorophenyl)-1,4-dihydro-4-oxo-5-(2-phenethylamino)-1,6-naphthyridine was replaced with 3-(4-methoxyphenyl)-1,4-dihydro-4-oxo-5-phenylamino-1,6-naphthyridine and iodomethane was replaced with iodoethane. MS 372 (M+1)+.

reactant | 3-(4-Methoxyphenyl)-1,4-dihydro-1-ethyl-4-oxo-5-phenylamino-1,6-naphthyridine | COC1=CC=C(C=C1)C1=CN(C2=CC=NC(=C2C1=O)NC1=CC=CC=C1)CC | C23H21N3O2
reactant | 3-(4-methoxyphenyl)-1,4-dihydro-4-oxo-5-phenylamino-1,6-naphthyridine | COC1=CC=C(C=C1)C1=CNC2=CC=NC(=C2C1=O)NC1=CC=CC=C1 | C21H17N3O2
reactant | iodomethane | IC | CH3I
reactant | iodoethane | ICC | C2H5I
product | 3-(4-Ethoxyphenyl)-1,4-dihydro-1-methyl-4-oxo-5-(3-pyridylamino)-1,6-naphthyridine | C(C)OC1=CC=C(C=C1)C1=CN(C2=CC=NC(=C2C1=O)NC=1C=NC=CC1)C | C22H20N4O2
